* /snk/ruban/ruban.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
xsc2 net-_sc1-pad1_ vin gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ vin net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc3 buf_out net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc4 buf_out net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
v1  vin gnd sine(0 5 .5 0 0)
v2  mux1 gnd sine(0 5 2 0 0)
v4  mux2 gnd sine(0 5 4 0 0)
v5  mux3 gnd pulse(0 5 0 0 0 1 2)
v6 mux4 gnd  dc 5
v3  net-_u2-pad2_ gnd pulse(5 0 1 0 0 30 30)
* u2  buf_out net-_u2-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  mux4 mux2 mux1 mux3 mux3 mux3 mux2 gnd net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u4  mux1 gnd mux2 mux1 mux2 mux1 mux4 gnd net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ adc_bridge_8
* s c m o d e
* u7  out plot_v1
* u6  net-_u3-pad21_ out dac_bridge_1
v7 net-_sc1-pad3_ gnd  dc 5
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ c3 c2 c1 co net-_u3-pad21_ ruban_mux
* u1  net-_u1-pad1_ net-_u1-pad2_ c3 c2 c1 co ruban_counter
* u8  vin plot_v1
* u9  buf_out plot_v1
* u10  c3 plot_v1
* u13  co plot_v1
* u11  c2 plot_v1
* u12  c1 plot_v1
a1 [buf_out net-_u2-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a2 [mux4 mux2 mux1 mux3 mux3 mux3 mux2 gnd ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u5
a3 [mux1 gnd mux2 mux1 mux2 mux1 mux4 gnd ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u4
a4 [net-_u3-pad21_ ] [out ] u6
a5 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] [c3 c2 c1 co ] [net-_u3-pad21_ ] u3
a6 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [c3 c2 c1 co ] u1
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ruban_mux, NgSpice Name: ruban_mux
.model u3 ruban_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             ruban_counter, NgSpice Name: ruban_counter
.model u1 ruban_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.001e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out) v(vin)+25 v(buf_out)+10
plot v(c3)
plot v(co)
plot v(c2)
plot  v(c1)
.endc
.end
